US06235778B1
d) 3-[3-(2-Nitrophenylsulfonyloxy)-5-methylphenoxy]propoxyamine
A solution of N-[3-[3-(2-nitrophenylsulfonyloxy)-5-methylphenoxy]propoxy]-phthalimide (2.33 g, 4.55 mmol), as prepared in the preceding step, in tetrahydrofuran (30 mL) and ethanol (30 mL) was treated with sodium borohydride (524 mg, 13.9 mmol). The reaction mixture was stirred at room temperature overnight, quenched carefully with 2N HCl (14 mL) and heated at 50° C. for 90 min. The reaction mixture was then concentrated to ¼ volume, basified with 2N NaOH, diluted with water, and extracted into ethyl acetate. The organic phase was dried (K2CO3) and purified by flash chromatography (1:4 to 1:2 diethyl ether/dichloromethane to give 1.12 g (64%) of the title compound as a pale yellow oil. 1H-NMR (300 MHz, CDCl3) δ7.98-8.01 (m, 1H), 7.79-7.87 (m, 2H), 7.66-7.74 (m, 1H), 6.64 (m, 1H), 6.60 (s, 1H), 6.57 (t, 1H, J=2 Hz), 3.96 (t, 2H, J=6 Hz), 3.80 (t, 2H, J=6 Hz), 2.27 (s, 3H), 2.02 (penet, 2H, J=6 Hz). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid) calcd. for C16H18N2O7S: 405.1 (M+Na). Found 405.2.

reactant | N-[3-[3-(2-nitrophenylsulfonyloxy)-5-methylphenoxy]propoxy]-phthalimide | 4.55 mmol, 2.33 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON2C(C=3C(C2=O)=CC=CC3)=O)C=C(C1)C | C24H20N2O9S
reactant | ethanol | 30 mL | C(C)O | C2H6O
reactant | sodium borohydride | 13.9 mmol, 524 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-[3-(2-Nitrophenylsulfonyloxy)-5-methylphenoxy]propoxyamine | 1.12 g, 64% | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C16H18N2O7S
